US05691335
Synthesis of 3(4-chlorobenzoyl)-1phenyl-imidazolidin-2,4-dione (Compound 8):
In accordance with the synthesis process (B), 500 mg (2.84 mmol) of 1-phenyl-imidazolidin-2,4-dione were dissolved in 20 ml of pyridine. To the solution, 500 mg (2.86 mmol) of p-chlorobenzoyl chloride were added dropwise while chilling with ice water. The resultant mixture was stirred at 0°-5° C. for 2 hours, and dilute hydrochloric acid was then added to the reaction mixture. Crystals deposited were collected by filtration by means of suction. These crude crystals were recrystallized from n-hexane/ethyl acetate, thereby obtaining 220 mg (yield: 25%) of the title compound.

reactant | 1-phenyl-imidazolidin-2,4-dione | 2.84 mmol, 500 mg | C1(=CC=CC=C1)N1C(NC(C1)=O)=O | C9H8N2O2
reactant | p-chlorobenzoyl chloride | 2.86 mmol, 500 mg | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 3(4-chlorobenzoyl)-1phenyl-imidazolidin-2,4-dione | 220 mg, yield: 25% | ClC1=CC=C(C(=O)N2C(N(CC2=O)C2=CC=CC=C2)=O)C=C1 | C16H11ClN2O3
